US04221915
Into 2.4 ml of water, potassium hydroxide (0.67 g, 12 mmol) and lithium chloride (0.254 g, 6 mmol) were dissolved. Then, into the solution above, α-trichloromethyl-2-thiophenemethanol (0.693 g, 3 mmol) solution in dioxane (2.4 ml) was added and agitation was conducted for 12 hr. at room temperature and for 3 hr. at 80° C. Thereafter, water (20 ml) was added thereto and diethylether was further added into the reaction mixture. The ether soluble part was separated. The water layer was acidified with hydrochloric acid and then, extracted with diethylether. The organic layer was dried with anhydrous magnesium sulfate and was treated with activated carbon and filtered. Thereafter, the filtrate was concentrated and gave 0.246 g of 2-thiopheneglycolic acid as crystals.

reactant | water | 2.4 ml | O | H2O
reactant | potassium hydroxide | 12 mmol, 0.67 g | [OH-].[K+]
reactant | lithium chloride | 6 mmol, 0.254 g | [Cl-].[Li+]
reactant | α-trichloromethyl-2-thiophenemethanol | 3 mmol, 0.693 g | ClC(C(O)C=1SC=CC1)(Cl)Cl | C6H5Cl3OS
reactant | water | 20 ml | O | H2O
solvent | dioxane | 2.4 ml | O1CCOCC1 | C4H8O2
solvent | diethylether | C(C)OCC | C4H10O
product | 2-thiopheneglycolic acid | 0.246 g | S1C(=CC=C1)C(C(=O)O)O | C6H6O3S
